US09315459B2
4-(2-(4-tolylsulfanyl)phenyl)-piperidin hydrobromide
The crude ethyl 4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate as a red oil from example 3 was mixed in a stirred reactor with hydrobromic acid in acetic acid (40%, 545 mL, 3.11 mol). The mixture was heated at 80° C. for 18 hours. The reaction mixture was cooled down to room temperature. During the cooling the product crystallises out. After 1 hour at room temperature ethyl ether (800 mL) was added to the reaction mixture, and the mixture was stirred for another hour. The product was filtered off, washed with ethyl ether and dried in a vacuum oven at 50° C. until constant weight.

reactant | ethyl 4-(2-(4-tolylsulfanyl)phenyl)-piperidin-1-carboxylate | C1(=CC=C(C=C1)SC1=C(C=CC=C1)C1CCN(CC1)C(=O)OCC)C | C21H25NO2S
reactant | hydrobromic acid | Br | BrH
reactant | acetic acid | 3.11 mol, 545 mL | C(C)(=O)O | C2H4O2
product | 4-(2-(4-tolylsulfanyl)phenyl)-piperidin hydrobromide | Br.C1(=CC=C(C=C1)SC1=C(C=CC=C1)C1CCNCC1)C | InChI=1S/C18H21NS.BrH/c1-14-6-8-16(9-7-14)20-18-5-3-2-4-17(18)15-10-12-19-13-11-15;/h2-9,15,19H,10-13H2,1H3;1H
